US04607034
Synthesis of 2-(4-phenylthiocarbamoyl-piperazin-1-yl)-4-amino-6,7-dimethoxyquinazoline (Compound No. 35)
In 20 ml of dioxane, there was dissolved 0.87 g. (3 mmole) of 2-piperazino-4-amino-6,7-dimethoxyquinazoline. To the resultant solution was added dropwise a solution of 0.41 g. (3 mmole) of phenylisothiocyanate dissolved in 10 ml of dioxane at room temperature. The mixture was further stirred overnight. After evaporation of the solvent, the residue was chromatographed on silica gel and eluted with 20% dioxane-chloroform to obtain 0.89 g. of the desired product.

reactant | 2-piperazino-4-amino-6,7-dimethoxyquinazoline | 3 mmole | N1(CCNCC1)C1=NC2=CC(=C(C=C2C(=N1)N)OC)OC | C14H19N5O2
reactant | phenylisothiocyanate | 3 mmole | C1(=CC=CC=C1)N=C=S | C7H5NS
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 2-(4-phenylthiocarbamoyl-piperazin-1-yl)-4-amino-6,7-dimethoxyquinazoline | Yield: 69.9% | C1(=CC=CC=C1)NC(=S)N1CCN(CC1)C1=NC2=CC(=C(C=C2C(=N1)N)OC)OC | C21H24N6O2S
